US08110585B2
5-bromo-2-methylimidazo[1,2-a]pyridine
6-Bromopyridin-2-amine (25.0 g, 144 mmol) and 1-chloroacetone (20.0 mL, 251 mmol) were dissolved in ethanol (300 mL) and the mixture was heated under reflux for 3 days. The precipitated solid was collected by filtration and dissolved in dichloromethane. The solution was washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (25.0 g, yield 75%).

reactant | 6-Bromopyridin-2-amine | 144 mmol, 25.0 g | BrC1=CC=CC(=N1)N | C5H5BrN2
reactant | 1-chloroacetone | 251 mmol, 20.0 mL | ClCC(=O)C | C3H5ClO
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 5-bromo-2-methylimidazo[1,2-a]pyridine | 25.0 g, yield 75% | BrC1=CC=CC=2N1C=C(N2)C | C8H7BrN2
